US06972340B2
2-(trimethylsilyl)ethyl 4-[(2-carboxyphenyl)amino]-L-phenylalaninate
2-(trimethylsilyl)ethyl 4-[(2-carboxyphenyl)amino]-N-(tert-butoxycarbonyl)-L-phenylalaninate (6.97 g, 13.9 mmol) was treated with 4N HCl (13.9 mL) in Dioxane (55.8 mmol) for one hour. The solvent was then removed under reduced pressure. The residue was precipitated with diethyl ether (2×35 mL) to provide the titled compound as a light yellow solid (6.1 g, 100%).

reactant | 2-(trimethylsilyl)ethyl 4-[(2-carboxyphenyl)amino]-N-(tert-butoxycarbonyl)-L-phenylalaninate | 13.9 mmol, 6.97 g | C(=O)(O)C1=C(C=CC=C1)NC1=CC=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)OCC[Si](C)(C)C)C=C1 | C26H36N2O6Si
reactant | HCl | 4N, 13.9 mL | Cl | ClH
reactant | Dioxane | 55.8 mmol | O1CCOCC1 | C4H8O2
product | 2-(trimethylsilyl)ethyl 4-[(2-carboxyphenyl)amino]-L-phenylalaninate | 6.1 g, 100% | C(=O)(O)C1=C(C=CC=C1)NC1=CC=C(C[C@H](N)C(=O)OCC[Si](C)(C)C)C=C1 | C21H28N2O4Si
